US08119809B2
Step 4. 1-(4-fluorobenzyl)-N-(5-(1-(4-(trifluoromethyl)phenyl)piperidin-4-yloxy)-2,3-dihydro-1H-inden-1-yl)piperidin-4-amine
To a stirred mixture of N-(5-(1-(4-(trifluoromethyl)phenyl)piperidin-4-yloxy)-2,3-dihydro-1H-inden-1-yl)piperidin-4-amine.3HCl (0.06 g, 0.1 mmol) in anhydrous dimethylformamide (0.5 mL) at room temperature was added 1-bromomethyl-4-fluorobenzene (0.02 g, 0.1 mmol) and N,N-diisopropylethylamine (0.07 g, 0.5 mmol). The resulting mixture was stirred at room temperature overnight. After this time the mixture was concentrated under reduced pressure and the resulting residue was purified by flash chromatography (silica gel, methylene chloride/methanol/30% ammonium hydroxide=20/1/0.05) to afford the title compound as a off-white solid (0.05 g, 88%). 1H NMR (CDCl3, 300 MHz) 7.46 (m, 2H), 7.25 (m, 3H), 6.96 (m, 4H), 6.75 (m, 2H), 4.47 (m, 1H), 4.29 (m, 1H), 3.58 (m, 2H), 3.48 (s, 2H), 3.06-2.54 (m, 6H), 2.38 (m, 1H), 2.14-1.74 (m, 9H), 1.49 (m, 2H) ppm; MS (ES) 568.6 (M+H).

reactant | N-(5-(1-(4-(trifluoromethyl)phenyl)piperidin-4-yloxy)-2,3-dihydro-1H-inden-1-yl)piperidin-4-amine | FC(C1=CC=C(C=C1)N1CCC(CC1)OC=1C=C2CCC(C2=CC1)NC1CCNCC1)(F)F | C26H32F3N3O
reactant | 1-bromomethyl-4-fluorobenzene | 0.1 mmol, 0.02 g | BrCC1=CC=C(C=C1)F | C7H6BrF
reactant | N,N-diisopropylethylamine | 0.5 mmol, 0.07 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 1-(4-fluorobenzyl)-N-(5-(1-(4-(trifluoromethyl)phenyl)piperidin-4-yloxy)-2,3-dihydro-1H-inden-1-yl)piperidin-4-amine | 0.05 g, 88% | FC1=CC=C(CN2CCC(CC2)NC2CCC3=CC(=CC=C23)OC2CCN(CC2)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C33H37F4N3O
